US08383637B2
3-[2-Amino-6-(hydroxy-phenyl-methyl)-4H-quinazolin-3-yl]-N-cyclohexyl-N-methyl-propionamide
A mixture of 3-(2-amino-6-benzoyl-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide (0.0056 mol) in methanol (60 mL) and THF (30 mL) was stirred at room temperature. Then, NaBH4 (0.0056 mol) was added and the reaction mixture was stirred for 30 min at room temperature. The solvent was evaporated, and the residue was stirred in H2O and then extracted with CH2Cl2. The organic layer was separated and dried, and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: 94:6 CH2Cl2:(CH3OH:NH3)). The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | 3-(2-amino-6-benzoyl-4H-quinazolin-3-yl)-N-cyclohexyl-N-methyl-propionamide | 0.0056 mol | NC1=NC2=CC=C(C=C2CN1CCC(=O)N(C)C1CCCCC1)C(C1=CC=CC=C1)=O | C25H30N4O2
reactant | NaBH4 | 0.0056 mol | [BH4-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-[2-Amino-6-(hydroxy-phenyl-methyl)-4H-quinazolin-3-yl]-N-cyclohexyl-N-methyl-propionamide | NC1=NC2=CC=C(C=C2CN1CCC(=O)N(C)C1CCCCC1)C(C1=CC=CC=C1)O | C25H32N4O2
